US04831035
6.46 grams (20.55 mmol) of (2R,11bS) 2-(2-aminoethylamino)-2-cyanomethyl-9-methoxy-1,3,4,6,7,11b-hexahydrobenzo[a]quinolizine, 100 milliters of chloroform, 100 milliliters of water, 8.50 grams (61.64 mmol) of potassium carbonate and 7.15 grams (41.09 mmol) of methanesulfonic anhydride were stirred vigorously for one hour under an atmosphere of argon at room temperature. The layers were separated and the organic phase was washed with water and brine. The mixture was dried, filtered, and then subjected to reduced pressure to obtain 6.06 grams of pure (2R,11bS) 2-(2-methanesulfonamidoethylamino)-2-cyanomethyl-9-methoxy-1,3,4,6,7,11b-hexahydrobenzo[a]-quinolizine as a foam.

reactant | (2R,11bS) 2-(2-aminoethylamino)-2-cyanomethyl-9-methoxy-1,3,4,6,7,11b-hexahydrobenzo[a]quinolizine | 20.55 mmol, 6.46 grams | NCCN[C@@]1(CCN2CCC3=C([C@@H]2C1)C=CC(=C3)OC)CC#N | C18H26N4O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | potassium carbonate | 61.64 mmol, 8.50 grams | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonic anhydride | 41.09 mmol, 7.15 grams | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | water | 100 milliliters | O | H2O
product | (2R,11bS) 2-(2-methanesulfonamidoethylamino)-2-cyanomethyl-9-methoxy-1,3,4,6,7,11b-hexahydrobenzo[a]-quinolizine | 6.06 grams | CS(=O)(=O)NCCN[C@@]1(CCN2CCC3=C([C@@H]2C1)C=CC(=C3)OC)CC#N | C19H28N4O3S
